US07208495B2
methyl 3-(3,4-dimethoxyphenyl)-2-propenoate
To a suspension of 3-(3,4-dimethoxyphenyl)-2-propenoic acid (21.8 g, 105 mmol) in methanol (220 ml) was added thionyl chloride (23.0 mL, 315 mmol) under ice cooling and the mixture was stirred at 60° C. for 12 hours. The resulting mixture was concentrated under reduced pressure, and the residue was added to water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, water and saturated aqueous sodium chloride, and dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate-hexane to obtain 18.7 g (yield 80%) of the title compound. mp. 72–74° C.

reactant | 3-(3,4-dimethoxyphenyl)-2-propenoic acid | 105 mmol, 21.8 g | COC=1C=C(C=CC1OC)C=CC(=O)O | C11H12O4
reactant | thionyl chloride | 315 mmol, 23.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 220 ml | CO | CH4O
product | methyl 3-(3,4-dimethoxyphenyl)-2-propenoate | 18.7 g, yield 80% | COC=1C=C(C=CC1OC)C=CC(=O)OC | C12H14O4
